US07160887B1
A mixture of N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl)succinamic acid (0.91 g, 1.5 mmols), 2-fluorobenzylamine (0.23 g, 1.8 mmols), diethyl cyanophosphate (0.25 ml, 1.8 mmols), triethylamine (0.25 ml, 1.8 mmols) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give an amorphous solid of N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl)-N′-(2-fluorobenzyl)succinamide (0.61 g, 57%).

reactant | N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl)succinamic acid | 1.5 mmols, 0.91 g | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC(=C2)Cl)N(C(CCC(=O)O)=O)CC2=CC(=C(C=C2)Cl)Cl)C=CC1 | C29H29Cl3N2O6
reactant | 2-fluorobenzylamine | 1.8 mmols, 0.23 g | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | diethyl cyanophosphate | 1.8 mmols, 0.25 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 1.8 mmols, 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl)-N′-(2-fluorobenzyl)succinamide | 0.61 g, 57% | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC(=C2)Cl)N(C(CCC(=O)NCC2=C(C=CC=C2)F)=O)CC2=CC(=C(C=C2)Cl)Cl)C=CC1 | C36H35Cl3FN3O5
